US05554753
(2) 1-(tert-Butyloxycarbonyl)-3-(hydroxymethyl)indole
To a 100mL two-necked round-bottom flask equipped with a thermometer 1-(tert-butyloxycarbonyl)-3-formylindole (13.7 g, 60 mmol) was suspended in ethanol (36 mL). Sodium borohydride (4.40 g, 115 mmol) was added in four portions, during which the temperature did not rise about 20° C., and the mixture was stirred for 6 hours. Then the solvent was evaporated in vacuo. The residual oil was shaken with 1.0N sodium hydroxide (150 mL), and the alkaline solution was extracted with ether (3×180 mL), dried with MgSO4, filtered and evaporated to give a colorless oil which solidified on refrigeration (3.95 g, ca. 100%).

reactant | 1-(tert-butyloxycarbonyl)-3-formylindole | 60 mmol, 13.7 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
reactant | Sodium borohydride | 115 mmol, 4.40 g | [BH4-].[Na+]
solvent | ethanol | 36 mL | C(C)O | C2H6O
product | 1-(tert-Butyloxycarbonyl)-3-(hydroxymethyl)indole | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CO | C14H17NO3
